US04933355
Piperidinium 5-(2-Tritylaminothiazol-4-ylmethylene)rhodanine-3-acetate
A mixture comprising 2.5 g of 2-tritylaminothiazole-4-carbaldehyde, 0.81 g of rhodanine-3-acetic acid, 1.1 g of piperidine and 25 ml of ethanol was stirred at room temperature for 7 hours. The crystalline product which precipitated out was collected by filtration and washed with methanol, to obtain 2.7 g of the desired compound as a yellowish-brown powder.

reactant | 2-tritylaminothiazole-4-carbaldehyde | 2.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C=O | C23H18N2OS
reactant | rhodanine-3-acetic acid | 0.81 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | piperidine | 1.1 g | N1CCCCC1 | C5H11N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | Piperidinium 5-(2-Tritylaminothiazol-4-ylmethylene)rhodanine-3-acetate | 2.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)[O-])=O.[NH2+]1CCCCC1 | InChI=1S/C28H21N3O3S3.C5H11N/c32-24(33)17-31-25(34)23(37-27(31)35)16-22-18-36-26(29-22)30-28(19-10-4-1-5-11-19,20-12-6-2-7-13-20)21-14-8-3-9-15-21;1-2-4-6-5-3-1/h1-16,18H,17H2,(H,29,30)(H,32,33);6H,1-5H2
